US07642264B2
2-(4-Iodo-imidazol-1-yl)-6-trifluoromethyl-4-(4-trifluoromethyl-phenyl)-pyridine
The title compound was prepared from 2-chloro-6-trifluoromethyl-4-(4-trifluoromethylphenyl)-pyridine (example A.26) (2.0 g, 6.14 mmol) and commercially available 4-iodo-imidazole (1.31 g, 6.75 mmol) according to the general procedure IVa. Obtained as a white solid (1.90 g, 82%). MS (ISP) 484.1 [(M+H)+].

reactant | 2-chloro-6-trifluoromethyl-4-(4-trifluoromethylphenyl)-pyridine | 6.14 mmol, 2.0 g | ClC1=NC(=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)C(F)(F)F | C13H6ClF6N
reactant | 4-iodo-imidazole | 6.75 mmol, 1.31 g | IC=1N=CNC1 | C3H3IN2
product | 2-(4-Iodo-imidazol-1-yl)-6-trifluoromethyl-4-(4-trifluoromethyl-phenyl)-pyridine | IC=1N=CN(C1)C1=NC(=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)C(F)(F)F | C16H8F6IN3
